US04833164
2-(4-Chlorobutyryl)-1-naphthol
A mixture of 1-naphthol (15.14 g, 0.105 mole), 4-chlorobutyric acid (9.90 mL, 0.100 mole), and boron trifluoride etherate (75 mL) was heated on a steam bath for 4 hours. The mixture was then treated slowly with 100 mL of water, and heating continued for 30 minutes. The mixture was poured into water, stirred, and the solution decanted. The residue was triturated with water, then crystallized from ethanol to provide the title compound (9.50 g, 38%) as a pale green solid, mp 73°-79°.

reactant | 1-naphthol | 0.105 mole, 15.14 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 4-chlorobutyric acid | 0.100 mole, 9.90 mL | ClCCCC(=O)O | C4H7ClO2
reactant | boron trifluoride etherate | 75 mL | B(F)(F)F.CCOCC
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-(4-Chlorobutyryl)-1-naphthol | 9.50 g, 38% | ClCCCC(=O)C1=C(C2=CC=CC=C2C=C1)O | C14H13ClO2
